US08258130B2
A suspended solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (2,3-dihydro-indol-1-yl)-amide (0.39 mmol) and MnO2 (1.95 mmol) in DCM (10 mL) is stirred at rt for 40 min. The reaction mixture is filtered and the filtrate is concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-40% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic indol-1-yl-amide (70 mg, 54%) as a solid. MS: 333 (M+H); 1H NMR (300 MHz, CDCl3): δ 6.60 (s, H), 7.10 (d, H), 7.14-7.46 (m, 4H), 7.50 (br, H), 7.64 (d, H), 8.37 (d, 2H), 8.60-9.40 (br, 3H). IC50=5 nM.

reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (2,3-dihydro-indol-1-yl)-amide | 0.39 mmol | N1(CCC2=CC=CC=C12)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C19H15FN4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.95 mmol | O=[Mn]=O
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic indol-1-yl-amide | 70 mg, 54% | N1(C=CC2=CC=CC=C12)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C19H13FN4O
